US05314640
60 g of carbon tetrabromide was dissolved in 185 ml of dichloromethane, and 100 g of triphenylphosphine was added at 0° C. or less. Next, 22 g of 4'-butyl-4-biphenylaldehyde was dissolved in 93 ml of dichloromethane, which then was added dropwise to the first dichloromethane solution over a period of one hour. The combined solutions were then agitated at room temperature for one hour. After completion of the reaction, the dichloromethane was distilled off, and 500 ml hexane was added to the residue. The resulting crystals were filtrated and further washed with hexane three times. The residue was recrystallized with hexane to obtain 9.6 g of 4-(4'-butylphenyl)-β,β-dibromostyrene.

reactant | carbon tetrabromide | 60 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 100 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4'-butyl-4-biphenylaldehyde | 22 g | C(CCC)C1=CC=C(C=C1)C1=CC=C(C=C1)C=O | C17H18O
solvent | dichloromethane | 185 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 93 ml | ClCCl | CH2Cl2
product | 4-(4'-butylphenyl)-β,β-dibromostyrene | 9.6 g | C(CCC)C1=CC=C(C=C1)C1=CC=C(C=C(Br)Br)C=C1 | C18H18Br2
